US05968978
b) 4'-Cyclohexylidenemethylbiphenyl-2-sulfonamide
5.5 g of cyclohexyltriphenylphosphonium bromide and 2.6 g of KOtBu were stirred at RT for 4 h in 200 ml of anhydrous THF. 3.0 g of 4'-formylbiphenyl-2-sulfonamide were added and the mixture was stirred at RT for 18 h. It was then diluted with 200 ml of EA, adjusted to pH=6-7 using aqueous HCl solution and washed 2 times with 100 ml of a saturated aqueous NaCl solution each time. The organic phase was dried over Na2SO4 and the solvent was removed in vacuo. Chromatography on silica gel using DIP yielded 1.5 g of a colorless oil.

reactant | cyclohexyltriphenylphosphonium bromide | 5.5 g | [Br-].C1(CCCCC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | KOtBu | 2.6 g | CC(C)(C)[O-].[K+]
reactant | 4'-formylbiphenyl-2-sulfonamide | 3.0 g | C(=O)C1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N | C13H11NO3S
reactant | HCl | Cl | ClH
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | EA | 200 ml | CC(OCC)=O | C4H8O2
product | 4'-Cyclohexylidenemethylbiphenyl-2-sulfonamide | 1.5 g | C1(CCCCC1)=CC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N | C19H21NO2S
